US09353066B2
p-Toluenesulfonic acid monohydrate (75 mg, 0.395 mmol) was added to a solution of 2-chloro-4-(trifluoromethyl)pyrimidine (36 mg, 0.198 mmol) and 5-(morpholin-4-ylmethyl)biphenyl-3-amine (53 mg, 0.198 mmol) in dioxane (1.98 mL) and heated to 80° C. for 14 hours, then allowed to cool to room temperature. The mixture was diluted with ethyl acetate (30 mL) and washed with saturate aqueous NaHCO3 (30 mL) and 1:1 water: brine (2×30 mL). The organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (thyl acetate/hexanes) provided N-[5-(morpholin-4-ylmethyl)biphenyl-3-yl]-4-(trifluoromethyl)pyrimidin-2-amine. MS ESI calc'd. for C22H22F3N4O [M+H]+ 415, found 415. 1H NMR (400 MHz, CDCl3): δ 8.67 (d, J=4.9 Hz, 1H); 7.90 (s, 1H); 7.66 (d, J=7.7 Hz, 2H); 7.58 (s, 1H); 7.51-7.42 (m, 3H); 7.39 (t, J=7.4 Hz, 1H); 7.33 (s, 1H); 7.06 (d, J=4.9 Hz, 1H); 3.76 (t, J=4.5 Hz, 4H); 3.61 (s, 2H); 2.54 (t, J=4.2 Hz, 4H).

reactant | p-Toluenesulfonic acid monohydrate | 0.395 mmol, 75 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 0.198 mmol, 36 mg | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | 5-(morpholin-4-ylmethyl)biphenyl-3-amine | 0.198 mmol, 53 mg | N1(CCOCC1)CC=1C=C(C=C(C1)C1=CC=CC=C1)N | C17H20N2O
solvent | dioxane | 1.98 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-[5-(morpholin-4-ylmethyl)biphenyl-3-yl]-4-(trifluoromethyl)pyrimidin-2-amine | N1(CCOCC1)CC=1C=C(C=C(C1)C1=CC=CC=C1)NC1=NC=CC(=N1)C(F)(F)F | C22H21F3N4O
